US07105544B2
N-{3-[1-(3-{[BIS(4-FLUOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE
Example 1 was prepared from bis(4-fluorophenyl)acetic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.63 (s, 1H), 7.39–7.31 (m, 3H), 7.29–7.21 (m, 5H), 7.02–6.96 (m, 4H), 4.80 (s, 1H), 3.40 (q, 2H, J=4.5 Hz), 2.94 (d, 2H, J=10.2 Hz), 2.51–2.38 (m, 4H), 1.97 (dt, 2H, J=1.8, 10.4 Hz), 1.81 (m, 2H), 1.68 (quintet, 2H, J=6.8 Hz,), 1.59 (m, 3H), 1.23 (d, 6H, J=6.9 Hz); ESMS m/e: 534.3 (M+H)+; Anal. Calc. For (HCl salt) C32H37F2N3O2.HCl.0.20 CHCl3: C, 65.11; H, 6.48; N, 7.07. Found: C, 65.30; H, 6.50; N, 6.96.

reactant | bis(4-fluorophenyl)acetic acid | FC1=CC=C(C=C1)C(C(=O)O)C1=CC=C(C=C1)F | C14H10F2O2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | N-{3-[1-(3-{[BIS(4-FLUOROPHENYL)ACETYL]AMINO}PROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | FC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=C(C=C1)F | C32H37F2N3O2
